US07842696B2
A mixture of 4-phenyl-1H-pyrazole hydrochloride salt (prepared by the method as described above)(45 mg, 0.2 mmol), DIPEA (80.5 mg, 0.11 ml, 0.625 mmol) and DCM (1 ml) was added to a stirred solution of triphosgene (40 mg, 0.1 mmol) in DCM (5 mL) at room temperature. After 30 minutes, to the above solution, a mixture of 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (prepared by the method as described above)(100 mg, 0.27 mmol), DIPEA (80.5 mg, 0.11 ml, 0.625 mmol) and DCM (1 ml) was added and the resulting mixture was stirred at room temperature for 30 minutes. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with 10% HCl solution, saturated sodium bicarbonate solution and brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 50% EtOAc in Hexane as eluent) to afford 57 mg (45.6% yield) 4-phenyl-pyrazole-1-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 96.83%. 1H NMR (CDCl3): δ 8.5 (d, 1H), 8.02 (s, 1H), 7.94 (s, 1H), 7.8 (m, 1H), 7.56 (d, 2H), 7.44 (t, 2H), 7.14 (d, 2H), 7.1 (d, 1H), 4.38-4.2 (m, 2H), 4.08-3.8 (m, 1H), 3.8-3.6 (m, 4H), 3.46-3.36 (s, 1H), 3.34-3.18 (s, 2H).

reactant | 4-phenyl-1H-pyrazole hydrochloride salt | Cl.C1(=CC=CC=C1)C=1C=NNC1
reactant | DIPEA | 0.625 mmol, 0.11 ml, 80.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.1 mmol, 40 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
reactant | DIPEA | 0.625 mmol, 0.11 ml, 80.5 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-phenyl-pyrazole-1-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 57 mg, 45.6% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)N2N=CC(=C2)C2=CC=CC=C2)=O)C1)C(F)(F)F | C24H21F4N5O3
